US09145354B2
Step 1 A stirred suspension of tert-butyl ethyl malonate (2.01 mL, 10.6 mmol), 1,2-dibromoethane (1.01 mL, 11.7 mmol), potassium carbonate (3.67 g, 26.6 mmol) and 1-butyl-3-methylimidazolium tetrafluoroborate (0.198 mL, 1.06 mmol) in DMF (26.6 mL) was heated to 55° C. for 20 hours. Upon cooling the mixture was filtered and the solid residue was washed with Et2O. The mixture was diluted with Et2O and washed with water (×2). The organic phase was dried (Na2SO4), filtered and concentrated giving 1-tert-butyl 1-ethyl cyclopropane-1,1-dicarboxylate which was used without further purification, 2.24 g.

reactant | tert-butyl ethyl malonate | 10.6 mmol, 2.01 mL | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | 1,2-dibromoethane | 11.7 mmol, 1.01 mL | BrCCBr | C2H4Br2
reactant | potassium carbonate | 26.6 mmol, 3.67 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-butyl-3-methylimidazolium tetrafluoroborate | 1.06 mmol, 0.198 mL | F[B-](F)(F)F.C(CCC)[N+]1=CN(C=C1)C
solvent | DMF | 26.6 mL | CN(C)C=O | C3H7NO
product | 1-tert-butyl 1-ethyl cyclopropane-1,1-dicarboxylate | C1(CC1)(C(=O)OC(C)(C)C)C(=O)OCC | C11H18O4
